US03978127
A. α,α-Dimethyl-4-(α,α,β,β-tetrafluorophenethyl)-benzylamine-isethionate
α,α-Dimethyl-4-(α,α,β,β-tetrafluorophenethyl)-benzylamine, 4.1 g. (0.0132 mole), was dissolved in 20 ml. of isopropyl alcohol and the solution treated with 3.7 ml. of 3.8M isethionic acid. Crystallization of the isethionate started after dilution with 400 ml. of absolute ether. The product was collected after several hours at room temperature, washed with absolute ether, and dissolved in 300 ml. of benzene. Water was removed azeotropically by distilling 200 ml. of benzene. The product was precipitated from the residual solution by dilution with 200 ml. of absolute ether; 5.8 g., m.p. 134.5°-136°. Recrystallization from 50 ml. of isopropyl alcohol - 200 ml. of absolute ether gave m.p. 135°-136.5°.

reactant | α,α-Dimethyl-4-(α,α,β,β-tetrafluorophenethyl)-benzylamine | CC(C1=CC=C(C=C1)C(C(C1=CC=CC=C1)(F)F)(F)F)(C)N | C17H17F4N
reactant | isethionic acid | 3.8M | S(=O)(=O)(O)CCO | C2H6O4S
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | α,α-Dimethyl-4-(α,α,β,β-tetrafluorophenethyl)-benzylamine isethionate | CC(C1=CC=C(C=C1)C(C(C1=CC=CC=C1)(F)F)(F)F)(C)N.S(=O)(=O)([O-])CCO | InChI=1S/C17H17F4N.C2H6O4S/c1-15(2,22)12-8-10-14(11-9-12)17(20,21)16(18,19)13-6-4-3-5-7-13;3-1-2-7(4,5)6/h3-11H,22H2,1-2H3;3H,1-2H2,(H,4,5,6)/p-1
